US08791255B2
The product is prepared according to the procedure described in Example 5, using 260 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 294 mg of 2,4,5-trifluoroaniline in place of the 2,4-difluoroaniline. 230 mg of 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-(2,4,5-trifluorophenyl)acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 260 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 2,4,5-trifluoroaniline | 294 mg | FC1=C(N)C=C(C(=C1)F)F | C6H4F3N
product | 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-(2,4,5-trifluorophenyl)acetamide | 230 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)NC1=C(C=C(C(=C1)F)F)F | C16H15F3N4O3
